US09315490B2
2,5-Diazabicyclo[2.2.1]heptan-2-yl(1-(5-(2-fluorophenyl)pyrimidin-2-yl)-3-(methylsulfinyl)-1H-indol-6-yl)methanone
Prepared from 1-(5-(2-fluorophenyl)pyrimidin-2-yl)-3-(methylsulfinyl)-1H-indole-6-carboxylic acid and tert-butyl 2,5-diazabicyclo[2.2.1]heptane-2-carboxylate in two steps comprising a T3P coupling and a TFA-catalyzed removal of the Boc protecting group. Light yellow solid.

reactant | 1-(5-(2-fluorophenyl)pyrimidin-2-yl)-3-(methylsulfinyl)-1H-indole-6-carboxylic acid | FC1=C(C=CC=C1)C=1C=NC(=NC1)N1C=C(C2=CC=C(C=C12)C(=O)O)S(=O)C | C20H14FN3O3S
reactant | tert-butyl 2,5-diazabicyclo[2.2.1]heptane-2-carboxylate | C12N(CC(NC1)C2)C(=O)OC(C)(C)C | C10H18N2O2
reactant | T3P | C(CC)P1(OP(OP(O1)(=O)CCC)(=O)CCC)=O | C9H21O6P3
product | 2,5-Diazabicyclo[2.2.1]heptan-2-yl(1-(5-(2-fluorophenyl)pyrimidin-2-yl)-3-(methylsulfinyl)-1H-indol-6-yl)methanone | C12N(CC(NC1)C2)C(=O)C2=CC=C1C(=CN(C1=C2)C2=NC=C(C=N2)C2=C(C=CC=C2)F)S(=O)C | C25H22FN5O2S
